US05556864
2(a) 2-Methoxymethoxybenzyl chloride
16.4 ml of carbon tetrachloride, followed by 44.5 g of triphenylphosphine were added, whilst ice-cooling, to a solution of 23.8 g of 2-methoxymethoxybenzyl alcohol in 240 ml of tetrahydrofuran, and the resulting mixture was heated under reflux for 5 hours. At the end of this time, the mixture was cooled, insoluble materials were filtered off and the filtrate was concentrated by evaporation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 9:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 15.5 g (yield 57%) of the title compound as a colorless liquid.

reactant | carbon tetrachloride | 16.4 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 44.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-methoxymethoxybenzyl alcohol | 23.8 g | COCOC1=C(CO)C=CC=C1 | C9H12O3
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
product | 2-Methoxymethoxybenzyl chloride | 15.5 g, yield 57% | COCOC1=C(CCl)C=CC=C1 | C9H11ClO2
